### PR TITLE
Statements of theorems for (quasi)modular forms $F$ and $G$

### LINKED ISSUE #185: Create files with definitions of $F$ and $G$

### PR DESCRIPTION
**Pull request by seewoo5**
Closes #185. This PR is mostly for the statements, but there are some proofs, too. There can be more refined steps, which will be added subsequently while proving the inequality. Also, changed the order in `D_mul` for consistency.

~#196 needs to be merged first.~

### CODE REVIEW

File: SpherePacking/ModularForms/Derivative.lean [hunk 1]
```diff
@@ -70,11 +70,9 @@ theorem D_add (F G : ℍ → ℂ) (hF : MDifferentiable 𝓘(ℂ) 𝓘(ℂ) F) (
...
     D (F + G) z
     _ = (2 * π * I)⁻¹ * deriv ((F ∘ ofComplex) + (G ∘ ofComplex)) z := by rfl
-    _ = (2 * π * I)⁻¹ * (deriv (F ∘ ofComplex) z + deriv (G ∘ ofComplex) z)
-      := by rw [h]
-    _ = (2 * π * I)⁻¹ * deriv (F ∘ ofComplex) z
-        + (2 * π * I)⁻¹ * deriv (G ∘ ofComplex) z
-      := by simp [mul_add]
+    _ = (2 * π * I)⁻¹ * (deriv (F ∘ ofComplex) z + deriv (G ∘ ofComplex) z) := by rw [h]
+    _ = (2 * π * I)⁻¹ * deriv (F ∘ ofComplex) z + (2 * π * I)⁻¹ * deriv (G ∘ ofComplex) z := by
+        simp [mul_add]
```
Comment (mattcushman) [inline SpherePacking/ModularForms/Derivative.lean]: Nit: why not use `rw [mul_add]`?

File: SpherePacking/ModularForms/Derivative.lean [hunk 2]
```diff
@@ -89,11 +87,9 @@ theorem D_sub (F G : ℍ → ℂ) (hF : MDifferentiable 𝓘(ℂ) 𝓘(ℂ) F) (
...
     D (F - G) z
     _ = (2 * π * I)⁻¹ * deriv ((F ∘ ofComplex) - (G ∘ ofComplex)) z := by rfl
-    _ = (2 * π * I)⁻¹ * (deriv (F ∘ ofComplex) z - deriv (G ∘ ofComplex) z)
-      := by rw [h]
-    _ = (2 * π * I)⁻¹ * deriv (F ∘ ofComplex) z
-        - (2 * π * I)⁻¹ * deriv (G ∘ ofComplex) z
-      := by ring_nf
+    _ = (2 * π * I)⁻¹ * (deriv (F ∘ ofComplex) z - deriv (G ∘ ofComplex) z) := by rw [h]
+    _ = (2 * π * I)⁻¹ * deriv (F ∘ ofComplex) z - (2 * π * I)⁻¹ * deriv (G ∘ ofComplex) z := by
+        ring_nf
```
Comment (mattcushman) [inline SpherePacking/ModularForms/Derivative.lean]: could change this to `rw [mul_sub]`

File: SpherePacking/ModularForms/FG.lean [hunk 3]
```diff
@@ -0,0 +1,178 @@
...
+    _ = serre_D 22 (serre_D 10 F * G) - serre_D 22 (F * serre_D 10 G) := by
+        apply serre_D_sub _ _ _
+        · exact MDifferentiable.mul (serre_D_differentiable F_holo) G_holo
+        · exact MDifferentiable.mul F_holo (serre_D_differentiable G_holo)
+    _ = serre_D (12 + 10) (serre_D 10 F * G) - serre_D (10 + 12) (F * serre_D 10 G) := by ring_nf
+    _ = serre_D 12 (serre_D 10 F) * G + (serre_D 10 F) * (serre_D 10 G)
+        - ((serre_D 10 F) * (serre_D 10 G) + F * (serre_D 12 (serre_D 10 G))) := by
+        -- This doesn't work?
+        -- apply serre_D_mul 12 10 (serre_D 10 F) G
+        sorry
```
Comment (mattcushman) [inline SpherePacking/ModularForms/FG.lean]: This sorry can be cleaned up with this:
```
        rw [serre_D_mul 12 10 (serre_D (10 : ℤ) F) G, serre_D_mul 10 12 F (serre_D (10 : ℤ) G)]
        · norm_cast
        ·  exact F_holo
        · refine serre_D_differentiable ?_
          exact G_holo
        · refine serre_D_differentiable ?_
          exact F_holo
        · exact G_holo
```

**Review by mattcushman — COMMENTED** [review]
Not an expert on this but looks good, left a few suggestions.

**Comment by seewoo5** [comment]
@mattcushman Thank you! I separated the `Derivative.lean` changes into #250, where some of your comments are addressed there.

**Review by CBirkbeck — APPROVED** [review]
other than applying @mattcushman  comment below it LGTM!

File: SpherePacking/ModularForms/FG.lean (hunk 3 above)
Comment (seewoo5) [reply SpherePacking/ModularForms/FG.lean]: I don't know why but this didn't worked, so I did in a slightly different way by splitting into two calc steps.
